US06734183B2
To a solution of 1-(4-bromophenyl)piperazine hydrochloride (5.09 g, 18.3 mmol) and triethylamine (7.67 ml) in dichloromethane (100 ml) was added methanesulfonyl chloride (2.83 ml, 36.3 mmol) dropwise. The mixture was stirred for 1 hour at room temperature then dichloromethane (100 ml) was added. The organics were washed with water (2×), brine and dried (Na2SO4) and evaporated in vacuo to a yellow solid which crystallised from Ethanol and washed with diethyl ether to give 1-(4-bromophenyl)-4-(methanesulfonyl)piperazine (4.74 g, 81% yield) as a white fluffy powder.

reactant | 1-(4-bromophenyl)piperazine hydrochloride | 18.3 mmol, 5.09 g | Cl.BrC1=CC=C(C=C1)N1CCNCC1
reactant | triethylamine | 7.67 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 36.3 mmol, 2.83 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(4-bromophenyl)-4-(methanesulfonyl)piperazine | 4.74 g, 81% yield | BrC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C | C11H15BrN2O2S
